US03933860
Preparation of 3-(N-chloroacetyl-N-2-methoxyphenylamino)-γ-butyrolactone
A 5.4 g ().044 mol) sample of chloroacetyl chloride was added dropwise to a solution of 9 g (0.044 mol) 3-(N-2-methoxyphenylamino)-γ-butyrolactone and 3.8 g (0.048 mol) pyridine in 150 ml ethyl acetate at 37° to 46°C. After stirring at 46°C for 15 minutes, the reaction mixture was cooled and diluted with water. The organic layer was separated, washed with 10% aqueous sodium bicarbonate, washed with water, dried over magnesium sulfate and evaporated under reduced pressure to give the product, as a colorless solid. The melting point and elemental analysis for the product is tabulated in Table I.

reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | 3-(N-2-methoxyphenylamino)-γ-butyrolactone | 0.044 mol, 9 g | COC1=C(C=CC=C1)NC1CC(=O)OC1 | C11H13NO3
reactant | pyridine | 0.048 mol, 3.8 g | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-(N-chloroacetyl-N-2-methoxyphenylamino)-γ-butyrolactone | ClCC(=O)N(C1=C(C=CC=C1)OC)C1CC(=O)OC1 | C13H14ClNO4
